US04002759
2-(4-Aminobutyl)pyridine was reacted with 1-nitro-2,2-bis-methylthio-ethylene in pyridine at 60° for 3.5 hours. Concentration of the reaction mixture and crystallisation yielded 1-nitro-2-methylthio-2-[4-(2-pyridyl)butylamino]ethylene, m.p. 78°.

reactant | 2-(4-Aminobutyl)pyridine | NCCCCC1=NC=CC=C1 | C9H14N2
reactant | 1-nitro-2,2-bis-methylthio-ethylene | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-nitro-2-methylthio-2-[4-(2-pyridyl)butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC1=NC=CC=C1)SC | C12H17N3O2S
